US07713994B2
(4Z)-6-Iodo-4-({[4-(piperidin-1-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione (1a)
To a solution of 0.2 g (0.60 mmol) of (4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione in 2 mL of N,N′-dimethylformamide is added 4-piperidin-1-ylmethyl-phenylamine (0.127 mL, 0.67 mmol). The reaction mixture is heated at 120° C. under N2 for 1.5 h. After cooling, ethyl ether is added and left in refrigerator overnight to give dark brown crystal. The crystal is collected and dissolved in 4 mL of dimethyl sulfoxide, followed by addition of 6 mL of 65% MeOH/H2O solution to give a precipitate. The solid is collected and washed thoroughly with water, MeOH, Et2O and hexane, and air-dried to give 0.143 g (48.3% yield) of tan solid: mp 202-203° C., MS (ESI) m/z 488.1 (M+H)+1

reactant | (4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.60 mmol, 0.2 g | IC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8INO3
reactant | 4-piperidin-1-ylmethyl-phenylamine | 0.67 mmol, 0.127 mL | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | N,N′-dimethylformamide | 2 mL | CN(C)C=O | C3H7NO
product | (4Z)-6-Iodo-4-({[4-(piperidin-1-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 0.143 g, 48.3% yield | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)CN1CCCCC1 | C22H22IN3O2
